US04102742
Reagent 2: 0.075 M triethanolamine buffer (pH 7.8);
pyruvate + NADH LDH LDH lactate + NAD

reactant | pyruvate NADH | C(C(=O)C)(=O)[O-].C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N
reactant | lactate NAD | C(C(O)C)(=O)[O-].C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N
product | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
